US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]benzamide
A 2M solution of trimethylaluminium (2.500 mL, 5.00 mmol) in toluene, was added dropwise to a stirred suspension of ethyl 4-((3R,5S)-3,4,5-trimethylpiperazin-1-yl)benzoate (0.643 g, 2 mmol) and 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (0.495 g, 2.00 mmol) in toluene (10 mL) at room temperature. The solution was then heated at 60° C. for 18 h. The reaction mixture was cooled and quenched with methanol (15 ml) and 2N hydrochloric acid (5 ml). The crude reaction mixture was purified by ion exchange chromatography on a SCX column, eluting with 7N ammonia in methanol. The appropriate fractions were evaporated to give an oil. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 10% 2.5N ammonia/MeOH in DCM. Pure fractions were evaporated to dryness to afford, on crystallisation from DCM/diethyl ether, the title compound (0.322 g, 33.7%) as a cream solid.

reactant | trimethylaluminium | 5.00 mmol, 2.500 mL | C[Al](C)C
reactant | ethyl 4-((3R,5S)-3,4,5-trimethylpiperazin-1-yl)benzoate | 2 mmol, 0.643 g | C[C@@H]1CN(C[C@@H](N1C)C)C1=CC=C(C(=O)OCC)C=C1 | C16H24N2O2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 2.00 mmol, 0.495 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]benzamide | 0.322 g, 33.7% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1C[C@H](N([C@H](C1)C)C)C)=O | C27H35N5O3
